US08431733B2
To a solution of (2S,3S)-N-cyclopropyl-3-(dibenzylamino)-2-hydroxyhexanamide (35.0 g) in methanol (350 mL) was carefully added palladium hydroxide on carbon (20% Pd(OH)2/C, 7.0 g), and the mixture was stirred under hydrogen at 50 psi for 2 hours. The mixture was filtered through Celite, and washed with methanol (150 mL). The solvent was evaporated under reduced pressure, to provide a light yellow solid, which was further washed with hexanes (2×75 mL), to give (2S,3S)-3-amino-N-cyclopropyl-2-hydroxyhexanamide (16.4 g).

reactant | (2S,3S)-N-cyclopropyl-3-(dibenzylamino)-2-hydroxyhexanamide | 35.0 g | C1(CC1)NC([C@H]([C@H](CCC)N(CC1=CC=CC=C1)CC1=CC=CC=C1)O)=O | C23H30N2O2
solvent | methanol | 350 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 7.0 g | [OH-].[OH-].[Pd+2]
product | (2S,3S)-3-amino-N-cyclopropyl-2-hydroxyhexanamide | 16.4 g | N[C@H]([C@@H](C(=O)NC1CC1)O)CCC | C9H18N2O2
